US09023844B2
2-phenyl-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine [VI-1]
A mixture of 3-phenyl-1H-pyrazol-5-ol (8.80 g, 0.055 mol), 1-bromo-3-chloropropane (9.5 g, 1.1 eq, 0.06 mol) and potassium carbonate (30.3 g, 4 eq, 0.22 mol) in acetonitrile (120 mL) is heated for 5.5 h under reflux. Thereafter the volatiles are evaporated and the residue is treated with 50 mL ethyl acetate. The residual solid is washed 2× with ethyl acetate and the combined organic phases are evaporated. The obtained crude product is triturated with methyl tert butylether and 6.4 g (53%) of 2-phenyl-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine are obtained as solid.

reactant | 3-phenyl-1H-pyrazol-5-ol | 0.055 mol, 8.80 g | C1(=CC=CC=C1)C1=NNC(=C1)O | C9H8N2O
reactant | 1-bromo-3-chloropropane | 0.06 mol, 9.5 g, 1.1 eq | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.22 mol, 30.3 g, 4 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | 2-phenyl-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine | C1(=CC=CC=C1)C1=NN2C(OCCC2)=C1 | C12H12N2O
